US09056859B2
Ethyl (4-Methyl-6-nitropyridin-3-yl)acetate tert-Butyl ethyl (6-nitro-4-methylpyridin-3-yl)propanedioate (7.4 g, 22.8 mmol) was dissolved in DCM (100 mL) and treated with trifluoromethanesulfonic acid (25 mL). The reaction mixture stirred 12 h, then was concentrated in vacuo and dried under high vacuum. The resulting residue purified by flash chromatography (eluted with 2→10% hexanes/ethyl acetate) to provide ethyl (4-methyl-6-nitropyridin-3-yl)acetate. 1H-NMR (400 MHz, CDCl3) δ ppm 8.48 (s, 1H), 8.15 (s, 1H), 4.29 (m, 2H), 3.81 (s, 2H), 2.53 (s, 3H), 1.27 (m, 3H). Step C: Ethyl (4-Methyl-6-aminopyridin-3-yl)acetate

reactant | Ethyl (4-Methyl-6-nitropyridin-3-yl)acetate tert-Butyl ethyl (6-nitro-4-methylpyridin-3-yl)propanedioate | 22.8 mmol, 7.4 g | C(C)(C)(C)OC(C(C(=O)O)(C=1C=NC(=CC1C)[N+](=O)[O-])CC)=O.CC1=C(C=NC(=C1)[N+](=O)[O-])CC(=O)OCC
reactant | trifluoromethanesulfonic acid | 25 mL | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | ethyl (4-methyl-6-nitropyridin-3-yl)acetate | CC1=C(C=NC(=C1)[N+](=O)[O-])CC(=O)OCC | C10H12N2O4
